US06514996B2
(Step A) 4-Bromo-7-methoxy-2,2-diphenyl-1,3-benzodioxole (Compound IIbl-a)
3-Bromo-6-methoxycatechol (3.87 g) and diphenyl-dichloromethane (4.61 g) were heated at 170° C. with stirring without a solvent. After being allowed to stand for cooling, a saturated aqueous solution of sodium bicarbonate was added to the mixture, followed by extraction with ether. The organic layer was washed with a saturated saline and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was triturated with methanol to give Compound IIbl-a (4.7 g, 69%) as a white solid.

reactant | 3-Bromo-6-methoxycatechol | 3.87 g | BrC1=C(C(O)=C(C=C1)OC)O | C7H7BrO3
reactant | diphenyl-dichloromethane | 4.61 g | C1(=CC=CC=C1)C(Cl)(Cl)C1=CC=CC=C1 | C13H10Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-Bromo-7-methoxy-2,2-diphenyl-1,3-benzodioxole | BrC1=CC=C(C=2OC(OC21)(C2=CC=CC=C2)C2=CC=CC=C2)OC | C20H15BrO3
